2145-12-03 07:21:00 Physician Resident Progress Note
Chief Complaint: Fever
   24 Hour Events:
 FEVER - 101.8
F - [**2145-12-2**] 08:00 pm
   ID consulted; Pt w/ suspected zoster, started on Acyclovir
   DFA without enough sample; cultures pend
   Liver team following; feels his liver transplant is in chronic
   rejection, non-acute. following prograf
   Foot-xray without evidence of osteo
   Has peripheral IVs, but likely needs PICC.  Howver, had but had fever
   to 101 on [**12-2**]
   OSH creatinine from 2.5, now
   TTE ordered for further fever w/o
   Awaiting nutrition recs regarding tube feeds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2145-12-2**] 04:25 AM
   Vancomycin - [**2145-12-2**] 08:15 AM
   Acyclovir - [**2145-12-3**] 02:10 AM
   Meropenem - [**2145-12-3**] 04:26 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2145-12-2**] 12:10 PM
   Heparin Sodium (Prophylaxis) - [**2145-12-2**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-3**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.4
C (99.3
   HR: 100 (100 - 126) bpm
   BP: 102/68(75) {102/65(75) - 151/87(102)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 62.7 kg
             Total In:
                                                                  5,803 mL
                                                                    525 mL
   PO:
             TF:
                                                                    209 mL
                                                                    205 mL
   IVF:
                                                                  4,274 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  4,580 mL
                                                                  1,070 mL
   Urine:
                                                                  3,515 mL
                                                                  1,070 mL
   NG:
   Stool:
                                                                  1,065 mL
   Drains:
   Balance:
                                                                  1,223 mL
                                                                   -545 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 460 (426 - 681) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.49/29/111/22/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Eyes / Conjunctiva: Pupils appear fixed, no blink to threat
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, left inguinal region with scattered crusted lesions
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful,
   Paralyzed, Tone: Increased
   Labs / Radiology
   273 K/uL
   9.2 g/dL
   82 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.2 mEq/L
   32 mg/dL
   117 mEq/L
   148 mEq/L
   27.2 %
   4.2 K/uL
        [image002.jpg]
                            [**2145-12-1**]  07:10 PM
                            [**2145-12-1**]  07:11 PM
                            [**2145-12-2**]  03:46 AM
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
   WBC
   5.1
   5.6
   4.2
   Hct
   24.6
   24.8
   27.2
   Plt
   300
   260
   273
   Cr
   1.4
   1.2
   1.0
   TCO2
   26
   23
   Glucose
   108
   84
   82
   Other labs: PT / PTT / INR:13.2/37.8/1.1, ALT / AST:77/73, Alk Phos / T
   Bili:409/0.2, Differential-Neuts:64.9 %, Lymph:26.7 %, Mono:6.2 %,
   Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Assessment: Mr. [**Known lastname 3955**] is a 55 year old male with hypertension, type II
   diabetes, alcohol abuse, ESLD s/p orthotopic liver transplant in 6/00,
   and severe motor vehicle accident with cervical spinal fracture and
   subsequent tracheostomy and PEG tube placement in [**8-/2145**] who is
   transferred to our hospital for evaluation of fevers of unknown origin.
   .
   Fever:  Etiology of fevers is unclear.  Currently growing gram negative
   rods from his blood from cultures taken [**11-30**].  Band count of 25% on
   the day of transfer.  Potential etiologies include urinary tract,
   biliary system/abdomen vs. lungs.  Of concern patient has also grown
   acinetobacter from sinuses and endotracheal swabs and this new
   bacteremia has occurred in the setting of amikacin use which should
   have good gram negative coverage. Imaging so far has been unrevealing
   and has included abdominal CT without contrast, head CT (sinus disease)
   and chest CT.  No LP was performed prior to antibiotics.  Gallium scan
   also not revealing. Continues to have persistent fevers.
   - repeat all cultures (blood, urine, sputum, stool for c. diff)
   - change foley catheter
   - repeat CXR tonight
   - repeat abdominal CT without contrast
   - right upper quadrant ultrasound to assess for biliary duct dilitation
   - will need to discuss with [**Hospital3 364**] details of hardware from MVC
   prior to considering MRI scans
   - consider neck CT given known hardware
   - XRAY of foot given necrotic appearing ulceration
   - follow up speciation of organisim from [**Hospital3 364**]
   - for now will cover with vancomycin, meropenem and tobramycin (given
   that bacteremia developed on amikacin)
   - ID consult in AM
   - will hold all neuroleptics as potential cause of non-infectious
   fevers
   .
   Chronic Respiratory Failure:  Unclear if patient has shown potential to
   wean.  Currently on assist control.  Given mental status and current
   infection will not attempt to wean at present.
   - continue assist control
   .
   Encephalopathy:  Patient with depressed mental status since motor
   vehicle accident with no clear cause.  At OSH was on lactulose and
   haldol along with oxycodone and morphine.  He has had EEGs with
   evidence of severe encephalopathy most recently [**11-24**].
   - hold lactulose
   - hold haldol
   - holding oxycodone and morphine
   - cautious fentanyl if evidence of discomfort
   .
   ESLD s/p liver transplant [**6-/2137**].  Liver team aware.  Will see in AM.
   Would like to obtain pathology reports and possibly slides from biopsy
   in [**9-13**].  INR 1.1, albumin 2.3,
   - continue prograf
   - check prograf levels
   - liver team to see in AM
   .
   Elevated Creatinine:  Unclear baseline.  Currently 1.4.  Per notes was
   higher at OSH.
   - urine electrolytes
   - urine sediment
   - attempt to avoid nephrotoxic agents (closely monitor aminoglycosides)
   .
   Tachycardia:  Likely secondary to known infection, discomfort.
   - fentanyl for discomfort
   - for now will not use beta blockers
   .
   Type II Diabetes:
   - continue lantus 28 U
   - continue sliding scale
   .
   Hypertension:  Blood pressures currently stable.  Not on any agents.
   - continue to monitor
   .
   FEN: NS @ 150 cc/hr, monitor electrolytes, unclear what his tube feeds
   are, will have nutrition see, continue free water flushes
   .
   Prophylaxis: SC heparin, PPI
   .
   Access: 2 peripheral IVs
   .
   Code: Full (discussed with proxy)
   .
   Disposition: ICU care
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-3**] 01:16 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-12-1**] 08:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-12-04 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2145-12-3**] 10:00 AM
 PICC LINE - START [**2145-12-3**] 01:00 PM
 NUCLEAR MEDICINE - At [**2145-12-3**] 03:00 PM
   Bone scan
 FEVER - 101.3
F - [**2145-12-3**] 08:00 PM
   - tacrolimus level 12.3 so held pm dose, ordered am trough and
   decreased dosing from 2g to 1g [**Hospital1 7**]
   - vancomycin stopped in am but then received OSH sputum cultures from
   [**11-30**] which grew MRSA, acinetobacter, and enterobacter so patient
   restarted on vancomycin
   - PICC placed by IR
   - bone scan completed showing hardware in neck, increased signal in
   right clavicle and right upper arm/shoulder of unclear significance
   - ID agreed with plan and further recommended CT torse be done to look
   for source
   - liver recommends following LFTs
   - TTE read showed a limited study - no signs of endocarditis but a
   limited study, trivial MR
   - was doing well on CPAP 10 PS 5 but became agitated upon return from
   studies and was placed back on AC until breathing more regulated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2145-12-2**] 04:25 AM
   Vancomycin - [**2145-12-2**] 08:15 AM
   Acyclovir - [**2145-12-4**] 02:20 AM
   Meropenem - [**2145-12-4**] 04:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2145-12-3**] 05:25 PM
   Heparin Sodium (Prophylaxis) - [**2145-12-3**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-4**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.6
   HR: 105 (92 - 128) bpm
   BP: 98/66(71) {98/50(64) - 140/80(100)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  2,938 mL
                                                                    824 mL
   PO:
             TF:
                                                                  1,385 mL
                                                                    391 mL
   IVF:
                                                                  1,103 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    270 mL
   Urine:
                                                                  2,175 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    763 mL
                                                                    554 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (355 - 740) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: NAD, occasional non-purposful movements,  opens
   eyes to voice
   Eyes / Conjunctiva: Pupils slight sluggish consentual respons on
   right.  no blink to threat
   Cardiovascular: rrr, S1/S2, no murmurs apreciated.
   Pulmonary: Coarse equal breath sound  bilat, No W/R/R
   Peripheral Vascular: 2+ distal pulses.  Trace peripheral edema
   Abdominal: Soft, Bowel sounds present
   Skin:  Warm, left inguinal region with scattered crusted lesions
   improved from yesterday
   Neurologic: Unresponsive, Non
purposeful movement, Paralyzed, Tone:
   Increased
   Labs / Radiology
   285 K/uL
   8.8 g/dL
   82 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   30 mg/dL
   115 mEq/L
   143 mEq/L
   25.6 %
   5.0 K/uL
        [image002.jpg]
                            [**2145-12-1**]  07:10 PM
                            [**2145-12-1**]  07:11 PM
                            [**2145-12-2**]  03:46 AM
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
   WBC
   5.1
   5.6
   4.2
   5.0
   Hct
   24.6
   24.8
   27.2
   25.6
   Plt
   300
   260
   273
   285
   Cr
   1.4
   1.2
   1.0
   0.9
   TCO2
   26
   23
   Glucose
   108
   84
   82
   Other labs: PT / PTT / INR:12.6/37.8/1.1, ALT / AST:47/41, Alk Phos / T
   Bili:397/0.3, Differential-Neuts:64.9 %, Lymph:26.7 %, Mono:6.2 %,
   Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL, Ca++:8.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Mr. [**Known lastname 3955**] is a 55 year old male with hypertension, type II diabetes,
   alcohol abuse, ESLD s/p orthotopic liver transplant in 6/00, and severe
   motor vehicle accident with cervical spinal fracture and subsequent
   tracheostomy and PEG tube placement in [**8-/2145**] who is transferred to our
   hospital for evaluation of fevers of unknown origin.
   Fever: Enterobacter from blood CX sensitive to Meropenem and Sputum Cx
   grew MRSA [**11-30**].   Potential sources for enterobacter include urinary
   tract, abdomen vs. Cervical hard [**Location (un) **].  Repeat CT abd without e/o
   infection. XRAY of foot without evidence of osteo.  Bone scan with
   enhancement in R shoulder (known fracture) and around neck hardware.
   - f/u repeat cultures (blood, urine, sputum, stool for c. diff)
   - foley catheter changed
   - Continue meropenem for GNR in blood and vanc for MRSA from [**Hospital 3956**] cultures
   - daily survaillence blood Cx
   - ID following
   - will hold all neuroleptics as potential cause of non-infectious
   fevers
   - call IP for ? tap of R pleural effusion. -> they can do it Monday
   [**2145-12-6**]
   Chronic Respiratory Failure:  Unclear if patient has shown potential to
   wean.  Currently on assist control.  Given mental status and current
   infection will not attempt to wean at present.
   - continue assist control
   Encephalopathy:  Patient with depressed mental status since motor
   vehicle accident with no clear cause.  At OSH was on lactulose and
   haldol along with oxycodone and morphine.  He has had EEGs with
   evidence of severe encephalopathy most recently [**11-24**].
   - hold lactulose
   - hold haldol
   - holding oxycodone and morphine
   - cautious fentanyl if evidence of discomfort
   Elevated Creatinine:  Per [**Hospital3 364**] records, Cr was 1.4 on [**11-26**],
   spiked up to 2.3 on [**11-30**].  Currently 0.9.
   - Monitor daily
   ESLD s/p liver transplant [**6-/2137**].  Liver team aware. Would like to obtain
   pathology reports and possibly slides from biopsy in [**9-13**].  INR 1.1,
   albumin 2.3,
   - continue prograf
   - check prograf levels
   - f/u liver recs
   Tachycardia:  Likely secondary to known infection, discomfort.
   - fentanyl for discomfort
   - for now will not use beta blockers
   Type II Diabetes:
   - continue lantus 28 U
   - continue sliding scale
   Hypertension:  Blood pressures currently stable.  Not on any agents.
   - continue to monitor
   FEN: TF via PEG, continue free water flushes, replete lytes PRN
   Prophylaxis: SC heparin, PPI
   Access: 2 peripheral IVs
   Code: Full (discussed with proxy)
   Disposition: ICU care
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-4**] 12:53 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-12-1**] 08:52 PM
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-12-04 12:01:00 Physician Attending Progress Note
Chief Complaint: Chronic respiratory failure, fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MRSA in sputum from outside hospital. Vanco restarted.
   Bone scan yesterday - increased signal in right clavicle and shoulder.
   Echo  - no signs of endocarditis.
   Still febrile.
   On vent on PSV with FIO2 of 40%.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2145-12-3**] 10:00 AM
 PICC LINE - START [**2145-12-3**] 01:00 PM
 NUCLEAR MEDICINE - At [**2145-12-3**] 03:00 PM
   Bone scan
 FEVER - 101.3
F - [**2145-12-3**] 08:00 PM
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2145-12-2**] 04:25 AM
   Acyclovir - [**2145-12-4**] 02:20 AM
   Meropenem - [**2145-12-4**] 04:00 AM
   Vancomycin - [**2145-12-4**] 07:52 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2145-12-3**] 05:25 PM
   Heparin Sodium (Prophylaxis) - [**2145-12-3**] 08:12 PM
   Other medications:
   colace, insulin, baclofen, chlorhexidine, tacrolimus, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-4**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.6
   HR: 105 (92 - 128) bpm
   BP: 98/66(71) {98/50(64) - 134/79(100)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  2,938 mL
                                                                  1,285 mL
   PO:
             TF:
                                                                  1,385 mL
                                                                    572 mL
   IVF:
                                                                  1,103 mL
                                                                    603 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    460 mL
   Urine:
                                                                  2,175 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    763 mL
                                                                    825 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 537 (406 - 740) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///22/
   Ve: 12 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ), Patient in
   right lateral decubitus position
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand, Bilateral
   contractures arms and legs
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   285 K/uL
   45 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   30 mg/dL
   115 mEq/L
   143 mEq/L
   25.6 %
   5.0 K/uL
        [image002.jpg]
                            [**2145-12-1**]  07:10 PM
                            [**2145-12-1**]  07:11 PM
                            [**2145-12-2**]  03:46 AM
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
   WBC
   5.1
   5.6
   4.2
   5.0
   Hct
   24.6
   24.8
   27.2
   25.6
   Plt
   300
   260
   273
   285
   Cr
   1.4
   1.2
   1.0
   0.9
   TCO2
   26
   23
   Glucose
   108
   84
   82
   45
   Other labs: PT / PTT / INR:12.6/31.1/1.1, ALT / AST:47/41, Alk Phos / T
   Bili:397/0.3, Differential-Neuts:64.9 %, Lymph:26.7 %, Mono:6.2 %,
   Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL, Ca++:8.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR: diffuse haziness of lung fields. Possible fluid in minor
   fissure vs atelectasis on right. Retrocardiac density with small left
   pleural effusion
   Microbiology: Sputum: pseudomonas and other flora
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   GRAM NEGATIVE BACTEREMIA
   ANEMIA
   Will try patient on trach mask today. Tolerate respiratory rate up to
   35. If he becomes more tachypneic, place back on PSV for several hours
   and then try again on trach mask; use "sprint/rest" approach to weaning
   off ventilator.
   Still febrile although WBC normal. Continues on antibiotics for MRSA in
   sputum and gram negative rods in blood. No source of bacteremia yet
   identified. Consider gallium scan. Doubt small pleural effusion
   accounts for bactermia; will ask IP to assess for diagnostic tap under
   ultrasound guidance.
   Hct stable. Not at transfusion threshold. No evidence of bleeding.
   ICU Care
   Nutrition: tube feeds
   Replete with Fiber (Full) - [**2145-12-4**] 06:59 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2145-12-1**] 08:52 PM
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-12-05 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Discontinued acyclovir and Zoster precautions per ID as VZV was neg
   and rash cleared quickly
   - ID recommended tap of pleural effusion for ? source -> IP called for
   small size -> they can do it Monday.
   - Placed on trial of trach mask, but restarted on vent for hypoxia and
   tachypnea.
   - Bolused total of 1 L for low UOP and tachycardia with good response
   - Pt was hypernatremic; increased free water flushes in NG tube
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2145-12-4**] 02:20 AM
   Vancomycin - [**2145-12-4**] 08:09 PM
   Meropenem - [**2145-12-5**] 04:08 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-4**] 10:10 PM
   Other medications:
   Flowsheet Data as of  [**2145-12-5**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 118 (106 - 143) bpm
   BP: 102/64(72) {98/51(64) - 140/87(109)} mmHg
   RR: 17 (14 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  4,256 mL
                                                                  1,225 mL
   PO:
             TF:
                                                                  1,665 mL
                                                                    431 mL
   IVF:
                                                                  2,331 mL
                                                                    735 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    650 mL
   Urine:
                                                                    700 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,556 mL
                                                                    575 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 444 (166 - 537) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 228
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: ///21/
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   22.9 %
   4.4 K/uL
   257 K/uL
   7.9 g/dL
   54 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.8 mEq/L
   25 mg/dL
   117 mEq/L
   146 mEq/L
        [image002.jpg]
                            [**2145-12-1**]  07:10 PM
                            [**2145-12-1**]  07:11 PM
                            [**2145-12-2**]  03:46 AM
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
   WBC
   5.1
   5.6
   4.2
   5.0
   4.4
   Hct
   24.6
   24.8
   27.2
   25.6
   22.9
   Plt
   300
   260
   273
   285
   257
   Cr
   1.4
   1.2
   1.0
   0.9
   0.8
   TCO2
   26
   23
   Glucose
   108
   84
   82
   45
   54
   Ca: 7.8 Mg: 1.5 P: 3.0
   ALT: 39
   AP: 385
   Tbili: 0.3
   Alb:
   AST: 37
   LDH: 234
   Dbili:
   TProt:
   [**Doctor First Name 354**]:
   Lip:
   Other Blood Chemistry:
   Vanco: Pnd
   Tacro: Pnd
   Microbiology: [**2145-12-4**] 1:34 pm SPUTUM  Source: Endotracheal.
   GRAM STAIN (Final [**2145-12-4**]):
   >25 PMNs and <10 epithelial cells/100X field.
   2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   1+    (<1 per 1000X FIELD):  GRAM POSITIVE COCCI. IN PAIRS.
   Assessment and Plan
   Mr. [**Known lastname 3955**] is a 55 year old male with hypertension, type II diabetes,
   alcohol abuse, ESLD s/p orthotopic liver transplant in 6/00, and severe
   motor vehicle accident with cervical spinal fracture and subsequent
   tracheostomy and PEG tube placement in [**8-/2145**] who is transferred to our
   hospital for evaluation of fevers of unknown origin; now HD#4
   Fever: On Meropenem (Day3) And Vanco (Day2) for OSH +Blood cultures
   (enterobacter) and MRSA  sputum.   Source remains unclear as all
   imaging essentially negative.
   - f/u repeat cultures (blood, urine, sputum, stool for c. diff)
   - Continue meropenem/Vanco
   - daily survaillence blood Cx
   - ID following
   - will hold all neuroleptics as potential cause of non-infectious
   fevers
   - will discuss case with IP for ? tap of R pleural effusion.
   Chronic Respiratory Failure:  Pt became tachy and hypoxic with trach
   mask attempt; switched back to assist control.  Given mental status and
   current infection will not attempt to wean at present.
   - continue assist control
   Encephalopathy:  Patient with chronic depressed mental status; stable
   - cautious fentanyl if evidence of discomfort
   Elevated Creatinine:  Elevated at presentation to OSH.  Now improved to
   0.8.
   - Monitor daily
   ESLD s/p liver transplant [**6-/2137**].  Liver team following.  Adjusting
   prograf levels as elevated yesterday.
   - continue prograf with daily levels/dose adjustments
   Tachycardia:  Likely secondary to known infection, discomfort.
   - fentanyl for discomfort
   - for now will not use beta blockers
   Type II Diabetes:  Sugars well controlled
   - continue lantus 28 U
   - continue sliding scale
   Hypertension:  Blood pressures currently stable.  Not on any agents.
   - continue to monitor
   FEN: TF via PEG, continue free water flushes, replete lytes PRN
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-5**] 01:19 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2145-12-1**] 08:52 PM
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code (discussed with proxy)
   Disposition:  ICU care
   ------ Protected Section ------
   Physical Exam  (Above Incomplete)
   GEN:  sleeping, NAD
   HEENT: Pupils minimally reactive, MMM
   CV: mildly tachy (110), reg rhythm, no appeciable murmurs
   PULM: bibasilar rales, otherwise clear
   ABD:  +bs, soft, ND.
   EXT:  2+ distal pulses, 1+ peripheral [**Last Name (un) 2053**]
   NEURO:  no purposeful movement, contracted.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4020**] [**Last Name (NamePattern1) 4021**], MD
   on:[**2145-12-5**] 08:32 ------

2145-12-05 11:18:00 Physician Attending Progress Note
Chief Complaint: Fever, chronic respiratory failure, MRSA, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient spent 9 hours off the ventilator yesterday. Fever persists, but
   not as high as previously. Free water repletion given for elevated Na.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2145-12-4**] 02:20 AM
   Meropenem - [**2145-12-5**] 04:08 AM
   Vancomycin - [**2145-12-5**] 08:15 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-5**] 08:20 AM
   Other medications:
   colace, insulin, baclofen, PPI, atrovent, chlorhexidine, tacrolimus
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-5**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.2
C (100.7
   HR: 116 (106 - 143) bpm
   BP: 105/70(75) {98/51(64) - 140/87(109)} mmHg
   RR: 19 (14 - 38) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  4,256 mL
                                                                  1,771 mL
   PO:
             TF:
                                                                  1,665 mL
                                                                    602 mL
   IVF:
                                                                  2,331 mL
                                                                  1,069 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    840 mL
   Urine:
                                                                    700 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,556 mL
                                                                    931 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 444 (166 - 444) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 228
   PIP: 12 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: ///21/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Severe
   contractures of legs and arms
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   left chest; right chest difficult to assess because of his positioning,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   257 K/uL
   54 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.8 mEq/L
   25 mg/dL
   117 mEq/L
   146 mEq/L
   22.9 %
   4.4 K/uL
        [image002.jpg]
                            [**2145-12-1**]  07:10 PM
                            [**2145-12-1**]  07:11 PM
                            [**2145-12-2**]  03:46 AM
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
   WBC
   5.1
   5.6
   4.2
   5.0
   4.4
   Hct
   24.6
   24.8
   27.2
   25.6
   22.9
   Plt
   300
   260
   273
   285
   257
   Cr
   1.4
   1.2
   1.0
   0.9
   0.8
   TCO2
   26
   23
   Glucose
   108
   84
   82
   45
   54
   Other labs: PT / PTT / INR:12.6/31.1/1.1, ALT / AST:39/37, Alk Phos / T
   Bili:385/0.3, Differential-Neuts:64.9 %, Lymph:26.7 %, Mono:6.2 %,
   Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:234 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.5 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ANEMIA
   Making progress with breathing off the ventilator. Will try on trach
   mask today for 6 hours, place back on vent for one hour, and then see
   if patient can do another 6 hours off the ventilator.
   Continues on broad spectrum antibiotics. Fever curve may be trending
   down. WBC normal. If cultures remain non informative, will proceed with
   [**10-19**] day course of antibiotics and then stop and reculture.
   Hct trending down. Not yet at transfusion threshold.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-5**] 07:29 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2145-12-1**] 08:52 PM
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2145-12-06 07:01:00 Physician Resident Progress Note
Chief Complaint: fever
   24 Hour Events:
 FEVER - 101.8
F - [**2145-12-5**] 04:00 PM
   - spiked a fever to 101.8 in the afternoon; blood clx sent
   - Tacro level 4.2
   - Attempted further vent weaning- did 6 hours off, 1 hour on, 6 hours
   off with good results
   - Sputum cultures from [**12-2**] with pseudomonas sensitive to current abx.
   - Hypernatremia stable at 144.  Urine lytes with FeNa
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2145-12-4**] 02:20 AM
   Vancomycin - [**2145-12-5**] 08:15 AM
   Meropenem - [**2145-12-6**] 04:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-5**] 09:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-6**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100
   HR: 117 (96 - 120) bpm
   BP: 127/82(102) {92/53(60) - 131/90(102)} mmHg
   RR: 25 (14 - 47) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  2,983 mL
                                                                    571 mL
   PO:
             TF:
                                                                  1,133 mL
                                                                    281 mL
   IVF:
                                                                  1,631 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    710 mL
   Urine:
                                                                  2,200 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    783 mL
                                                                   -139 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 412 (412 - 412) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///21/
   Ve: 7 L/min
   Physical Examination
   General: Opens eyes to voice, does not follow commands, oriented x 0
   HEENT: Sclera anicteric, MM dry,  tracheostomy site intact, cervical
   collar in place, pupils reactive
   CV: RRR, s1 + s2, no murmurs, rubs, gallops
   Resp: Coarse breath sounds bilaterally, no wheezes, ronchi, rales
   GI: soft, mildly distended, large scar from prior surgery, G-tube site
   intact, grimaces to palpation in right lower quadrant, + BS, no
   organomegaly
   GU: foley with mildly cloudy urine
   Ext: WWP, with large closed wound on right lateral foot with possible
   necrosis, 1+ edema, no clubbing or cyanosis
   Neurologic: contracted in both upper and lower extremities
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   268 K/uL
   7.5 g/dL
   60 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.4 mEq/L
   21 mg/dL
   116 mEq/L
   146 mEq/L
   22.1 %
   5.3 K/uL
        [image002.jpg]
                            [**2145-12-1**]  07:10 PM
                            [**2145-12-1**]  07:11 PM
                            [**2145-12-2**]  03:46 AM
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
   WBC
   5.1
   5.6
   4.2
   5.0
   4.4
   5.3
   Hct
   24.6
   24.8
   27.2
   25.6
   22.9
   22.1
   Plt
   300
   260
   273
   285
   257
   268
   Cr
   1.4
   1.2
   1.0
   0.9
   0.8
   0.9
   0.8
   TCO2
   26
   23
   Glucose
   108
   84
   82
   45
   54
   92
   60
   Other labs: PT / PTT / INR:12.6/31.1/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:64.9 %, Lymph:26.7 %, Mono:6.2 %,
   Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3955**] is a 55 year old male with hypertension, type II diabetes,
   alcohol abuse, ESLD s/p orthotopic liver transplant in 6/00, and severe
   motor vehicle accident with cervical spinal fracture and subsequent
   tracheostomy and PEG tube placement in [**8-/2145**] who is transferred to our
   hospital for evaluation of fevers of unknown origin; now HD#5
   Fever: On Meropenem (Day3) And Vanco (Day2) for OSH +Blood cultures
   (enterobacter) and MRSA  sputum.   Source remains unclear as all
   imaging essentially negative. Spiked temperature over the last 24 hrs
   (see above).
   - f/u repeat cultures (blood, urine, sputum, stool for c. diff)
   - Continue meropenem/Vanco
   - daily survaillence blood Cx
   - ID following
   - will hold all neuroleptics as potential cause of non-infectious
   fevers
   - will discuss case with IP for ? tap of R pleural effusion.
   Chronic Respiratory Failure:  Pt became tachy and hypoxic with trach
   mask attempt; switched back to assist control.  Given mental status and
   current infection will not attempt to wean at present.
   - continue assist control
   Encephalopathy:  Patient with chronic depressed mental status; stable
   - cautious fentanyl if evidence of discomfort
   Elevated Creatinine:  Elevated at presentation to OSH.  Now improved to
   0.8.
   - Monitor daily
   ESLD s/p liver transplant [**6-/2137**].  Liver team following.  Adjusting
   prograf levels as elevated yesterday.
   - continue prograf with daily levels/dose adjustments
   Tachycardia:  Likely secondary to known infection, discomfort.
   - fentanyl for discomfort
   - for now will not use beta blockers
   Type II Diabetes:  Sugars well controlled
   - continue lantus 28 U
   - continue sliding scale
   Hypertension:  Blood pressures currently stable.  Not on any agents.
   - continue to monitor
   FEN: TF via PEG, continue free water flushes, replete lytes PRN
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-6**] 02:01 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-12-06 12:01:00 Physician Attending Progress Note
Chief Complaint: Fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, had temperature but otherwise no new problems. [**Name (NI) **]
   unable to provide history.
   24 Hour Events:
 FEVER - 101.8
F - [**2145-12-5**] 04:00 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2145-12-4**] 02:20 AM
   Vancomycin - [**2145-12-5**] 08:15 AM
   Meropenem - [**2145-12-6**] 10:20 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-6**] 08:29 AM
   Other medications:
   Med List Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-6**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100
   HR: 107 (96 - 119) bpm
   BP: 112/72(80) {92/52(60) - 136/90(102)} mmHg
   RR: 23 (14 - 47) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  2,983 mL
                                                                  1,007 mL
   PO:
             TF:
                                                                  1,133 mL
                                                                    472 mL
   IVF:
                                                                  1,631 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                  1,030 mL
   Urine:
                                                                  2,200 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    783 mL
                                                                    -23 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 412 (412 - 412) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: ///21/
   Ve: 7 L/min
   Physical Examination
   Poorly responsive
   CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  warm
   Neurologic: very poorly responsive but no focal neurological findings
   Labs / Radiology
   7.5 g/dL
   268 K/uL
   60 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.4 mEq/L
   21 mg/dL
   116 mEq/L
   146 mEq/L
   22.1 %
   5.3 K/uL
        [image002.jpg]
                            [**2145-12-1**]  07:10 PM
                            [**2145-12-1**]  07:11 PM
                            [**2145-12-2**]  03:46 AM
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
   WBC
   5.1
   5.6
   4.2
   5.0
   4.4
   5.3
   Hct
   24.6
   24.8
   27.2
   25.6
   22.9
   22.1
   Plt
   300
   260
   273
   285
   257
   268
   Cr
   1.4
   1.2
   1.0
   0.9
   0.8
   0.9
   0.8
   TCO2
   26
   23
   Glucose
   108
   84
   82
   45
   54
   92
   60
   Other labs: PT / PTT / INR:12.6/31.1/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:64.9 %, Lymph:26.7 %, Mono:6.2 %,
   Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Microbiology: - GNR/GPC from sputum
   - Enterobacter in blood
   -
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   1) Fevers:
   - Continue antibiotics
   - Unclear source of fever - will discuss further with ID
   - IP to tap small fluid collection in lungs
   - LE dopplers to rule out DVTs as source of fever
   2) Acute on Chronic Respiratory Failure
   - on trach mask for now
 continue for as long as will tolerate
   3) Ventricular Tachycardia: short run of VT.  Monitor closely
   4) Tube Feeds
   5) Communication: Contact son and ask to come to hospital to discuss
   patient
s condition and goals of care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-6**] 08:13 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 30

2145-12-07 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.3
F - [**2145-12-6**] 11:30 PM
   - Bilateral LENIs ordered for today
   - IP plan to perform thoracentesis [**12-7**] with u/s guidance on LEFT
   - Remained on CPAP daytime 40% 0/5; off ventilation throughout the
   night.
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-5**] 08:15 AM
   Meropenem - [**2145-12-6**] 04:11 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-6**] 04:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-7**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.2
C (100.8
   HR: 113 (100 - 120) bpm
   BP: 100/62(66) {100/36(57) - 136/90(96)} mmHg
   RR: 25 (16 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  2,071 mL
                                                                    624 mL
   PO:
             TF:
                                                                  1,041 mL
                                                                    288 mL
   IVF:
                                                                    780 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    350 mL
   Urine:
                                                                  2,230 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -159 mL
                                                                    274 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   FiO2: 70%
   PIP: 0 cmH2O
   SpO2: 98%
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   327 K/uL
   8.2 g/dL
   90 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.6 mEq/L
   21 mg/dL
   110 mEq/L
   142 mEq/L
   23.9 %
   6.6 K/uL
        [image002.jpg]
                            [**2145-12-1**]  07:10 PM
                            [**2145-12-1**]  07:11 PM
                            [**2145-12-2**]  03:46 AM
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
   WBC
   5.1
   5.6
   4.2
   5.0
   4.4
   5.3
   6.6
   Hct
   24.6
   24.8
   27.2
   25.6
   22.9
   22.1
   23.9
   Plt
   300
   260
   273
   285
   257
   268
   327
   Cr
   1.4
   1.2
   1.0
   0.9
   0.8
   0.9
   0.8
   0.8
   TCO2
   26
   23
   Glucose
   108
   84
   82
   45
   54
   92
   60
   90
   Other labs: PT / PTT / INR:12.6/31.1/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:68.4 %, Lymph:23.9 %, Mono:5.2 %,
   Eos:2.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
SPUTUM GRAM STAIN (Final [**2145-12-4**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
RESPIRATORY CULTURE (Final [**2145-12-6**]):
      UNABLE TO DEFINITIVELY DETERMINE THE PRESENCE OR ABSENCE OF
      OROPHARYNGEAL FLORA UNABLE TO R/O OTHER PATHOGENS DUE TO OVERGROWTH
      OF SWARMING PROTEUS SPP. UNABLE TO RULE OUT HAEMOPHILUS DUE TO
      OVERGROWTH OF SWARMING PROTEUS SPECIES.
         PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # [**Numeric Identifier 4063**]
         [**2145-12-2**].
      GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
      GRAM NEGATIVE ROD #3.    SPARSE GROWTH.
[**2145-12-6**] 4:00 pm SPUTUM
   GRAM STAIN (Final [**2145-12-6**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      ? OROPHARYNGEAL FLORA.
      GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
         ? OF THREE COLONIAL MORPHOLOGIES.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Assessment and Plan
   Mr. [**Known lastname 3955**] is a 55 year old male with hypertension, type II diabetes,
   alcohol abuse, ESLD s/p orthotopic liver transplant in 6/00, and severe
   motor vehicle accident with cervical spinal fracture and subsequent
   tracheostomy and PEG tube placement in [**8-/2145**] who is transferred to our
   hospital for evaluation of fevers of unknown origin; now HD#6
   Fever: On Meropenem (Day7) And Vanco (Day6) for OSH +Blood cultures
   (enterobacter) and MRSA/Pseudomonas in  sputum.
   Continues to spike daily fevers.  At this time, unclear source.  Cannot
   tap R pleural effusion.
   - f/u cultures
   - continue meropenem/Vanco
   - daily survaillence blood Cx
   Chronic Respiratory Failure:  Patient doing well on trach mask.
   Consider transitioning back to AC if hypoxic or decrease in RR noted.
   - continue tach mask
   Encephalopathy:  Patient with chronic depressed mental status; stable
   - cautious fentanyl if evidence of discomfort
   Elevated Creatinine:  Elevated at presentation to OSH.  Now improved to
   0.8.
   - Monitor daily
   ESLD s/p liver transplant [**6-/2137**].  Liver team following.  Adjusting
   prograf levels as elevated yesterday.
   - continue prograf with daily levels/dose adjustments
   Tachycardia:  Likely secondary to known infection, discomfort.
   - fentanyl for discomfort
   - for now will not use beta blockers
   Type II Diabetes:  Sugars well controlled
   - continue lantus 28 U
   - continue sliding scale
   Hypertension:  Blood pressures currently stable.  Not on any agents.
   - continue to monitor
   FEN: TF via PEG, continue free water flushes, replete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-12-07 11:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, no new changes
   24 Hour Events:
 FEVER - 101.3
F - [**2145-12-6**] 11:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-5**] 08:15 AM
   Meropenem - [**2145-12-7**] 10:01 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-6**] 04:11 PM
   Fentanyl - [**2145-12-7**] 10:00 AM
   Other medications:
   Med List reviewed - see [**Month (only) **] for full details
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-7**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38
C (100.4
   HR: 122 (100 - 132) bpm
   BP: 112/61(74) {100/36(57) - 146/97(108)} mmHg
   RR: 23 (18 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  2,071 mL
                                                                    967 mL
   PO:
             TF:
                                                                  1,041 mL
                                                                    288 mL
   IVF:
                                                                    780 mL
                                                                    379 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    750 mL
   Urine:
                                                                  2,230 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -159 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Gen: alert-appearing but does not respond
   Chest: CTA bilaterally
   Heart: S1S2 reg
   Abd: soft NTND
   Neurologic: alert but not responsive; contracted
   Labs / Radiology
   8.2 g/dL
   327 K/uL
   90 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.6 mEq/L
   21 mg/dL
   110 mEq/L
   142 mEq/L
   23.9 %
   6.6 K/uL
        [image002.jpg]
                            [**2145-12-1**]  07:10 PM
                            [**2145-12-1**]  07:11 PM
                            [**2145-12-2**]  03:46 AM
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
   WBC
   5.1
   5.6
   4.2
   5.0
   4.4
   5.3
   6.6
   Hct
   24.6
   24.8
   27.2
   25.6
   22.9
   22.1
   23.9
   Plt
   300
   260
   273
   285
   257
   268
   327
   Cr
   1.4
   1.2
   1.0
   0.9
   0.8
   0.9
   0.8
   0.8
   TCO2
   26
   23
   Glucose
   108
   84
   82
   45
   54
   92
   60
   90
   Other labs: PT / PTT / INR:12.6/31.1/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:68.4 %, Lymph:23.9 %, Mono:5.2 %,
   Eos:2.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   1) Fever:
   - unclear etiology
   - ID input and continue broad-spectrum antibiotics
 will plan to get
   CT of chest to characterize lungs
   2) Respiratory Failure:
   - on trach collar
   -
   3) Encephalopathy: no improvement
   4) Contractions: Physicial Therapy
   5) Acute Renal Failure:
   - improved
   6)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30

2145-12-08 07:06:00 Physician Resident Progress Note
Chief Complaint: Fevers
   24 Hour Events:
 FEVER - 101.1
F - [**2145-12-7**] 12:00 PM
   -Spoke wit pt
s sister, [**Name (NI) 461**] [**Name (NI) 4075**]. Social Work was consulted
   regarding HCP -- - Discussed [**Name (NI) 4076**] with liver team; maintained at 1.5mg
   [**Hospital1 7**]
   -Foot I and D of foot lesion- minimal fluid; sent for culture
   -PT consulted re contractures
   -CT Chest wet read: Right upper lobe collapse, left lower lobe
   collapse. Bilateral pleural effusions and right lower lobe segmental
   atelectasis. Possible superimposed
   consolidation due to pneumonia. Underlying mass lesion causing collapse
   difficult to exclude without more recent prior study. Right humerus and
   clavicle fractures.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-7**] 06:00 PM
   Meropenem - [**2145-12-7**] 06:00 PM
   Other ICU medications:
   Fentanyl - [**2145-12-7**] 05:30 PM
   Flowsheet Data as of  [**2145-12-8**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38
C (100.4
   HR: 129 (106 - 132) bpm
   BP: 123/68(80) {90/45(55) - 146/97(108)} mmHg
   RR: 23 (13 - 40) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  1,638 mL
                                                                    255 mL
   PO:
             TF:
                                                                    288 mL
   IVF:
                                                                    930 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    715 mL
   Urine:
                                                                  1,825 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -187 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 97%
   Physical Examination
   GEN: Opens eyes to voice, does not follow commands, NAD
   HEENT: Pupils minimally reactive, MMM, tracheostomy site intact,
   cervical collar in place, pupils reactive
   CV: : RRR, s1 + s2, no murmurs, rubs, gallops
   PULM: bibasilar rales, otherwise clear
   ABD:  +bs, soft, ND.
   EXT:  2+ distal pulses, 1+ peripheral [**Last Name (un) 2053**] WWP, with bilateral laterl
   foot wounds with possible necrosis, 1+ edema, no clubbing or cyanosis
   NEURO:  no purposeful movement, contracted in both upper and lower
   extremities
   Labs / Radiology
   315 K/uL
   7.9 g/dL
   112 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.3 mEq/L
   22 mg/dL
   108 mEq/L
   139 mEq/L
   22.9 %
   5.4 K/uL
        [image002.jpg]
                            [**2145-12-2**]  03:46 AM
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
   WBC
   5.6
   4.2
   5.0
   4.4
   5.3
   6.6
   5.4
   Hct
   24.8
   27.2
   25.6
   22.9
   22.1
   23.9
   22.9
   Plt
   [**Telephone/Fax (3) 4077**]57
   268
   327
   315
   Cr
   1.2
   1.0
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   TCO2
   23
   Glucose
   84
   82
   45
   54
   92
   60
   90
   127
   112
   Other labs: PT / PTT / INR:12.6/31.1/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:68.4 %, Lymph:23.9 %, Mono:5.2 %,
   Eos:2.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   Microbiology: [**2145-12-6**] 4:00 pm SPUTUM
   GRAM STAIN (Final [**2145-12-6**]):
      >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
    ? OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
            ? OF THREE COLONIAL
   MORPHOLOGIES.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Assessment and Plan
   Mr. [**Known lastname 3955**] is a 55 year old male with hypertension, type II diabetes,
   alcohol abuse, ESLD s/p orthotopic liver transplant in 6/00, and severe
   motor vehicle accident with cervical spinal fracture and subsequent
   tracheostomy and PEG tube placement in [**8-/2145**] who is transferred to our
   hospital for evaluation of fevers of unknown origin; now HD#6
   Fever: On Meropenem and vanco now for OSH +Blood cultures
   (enterobacter) and MRSA/Pseudomonas in  sputum.  Repeat sputum from
   [**12-6**] still pending; + for GNR.  Continues to spike daily fevers.    CT
   of chest with compromised lung fields/atelectasis and bilateral pleural
   effusions.  Unable to tap due to lack of consent.
   - f/u cultures
   - continue meropenem/Vanco
   - daily survaillence blood Cx
   Encephalopathy:  Patient with chronic depressed mental status; stable
   since admission.
   - cautious fentanyl if evidence of discomfort
   - consider imaging head, vs EEG?
   Chronic Respiratory Failure:  Patient doing well on trach mask but CT
   scan with right and left lung collapse.
   - Consider transitioning back to AC if hypoxic or decrease in RR
   noted.
   Elevated Creatinine:  Resolved
   - Monitor daily
   ESLD s/p liver transplant [**6-/2137**].  Liver team following.  Checking daily
   prograf levels.  3.7 yesterday; maintained on 1.5mg [**Hospital1 7**] dosing.
   -  f/u liver recs
   Tachycardia:  persistant.  Likely secondary to known infection,
   discomfort.  ?
   - fentanyl for discomfort
   - for now will not use beta blockers
   Type II Diabetes:  Sugars well controlled; no changes.
   - continue lantus 28 U
   - continue sliding scale
   Hypertension:  Blood pressures currently stable.  Not on any agents.
   - continue to monitor
   FEN: TF via PEG, continue free water flushes, replete lytes PRN
   ICU Care
   Nutrition:  Tube Feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:  PPI
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2145-12-08 12:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Fever overnight.  I and D of foot performed, CT scan revealed bilateral
   collapse
   24 Hour Events:
 FEVER - 101.1
F - [**2145-12-7**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-7**] 06:00 PM
   Meropenem - [**2145-12-8**] 10:41 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2145-12-7**] 05:30 PM
   Lansoprazole (Prevacid) - [**2145-12-8**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2145-12-8**] 08:30 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-8**] 12:44 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 118 (106 - 129) bpm
   BP: 113/65(75) {90/45(43) - 137/72(100)} mmHg
   RR: 35 (13 - 40) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  1,638 mL
                                                                    971 mL
   PO:
             TF:
                                                                    288 mL
                                                                    110 mL
   IVF:
                                                                    930 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                  1,115 mL
   Urine:
                                                                  1,825 mL
                                                                  1,115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -187 mL
                                                                   -144 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Gen: Awake, appears attentive but poorly responsive
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: contractures, no edema
   Labs / Radiology
   7.9 g/dL
   315 K/uL
   112 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.3 mEq/L
   22 mg/dL
   108 mEq/L
   139 mEq/L
   22.9 %
   5.4 K/uL
        [image002.jpg]
                            [**2145-12-2**]  03:46 AM
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
   WBC
   5.6
   4.2
   5.0
   4.4
   5.3
   6.6
   5.4
   Hct
   24.8
   27.2
   25.6
   22.9
   22.1
   23.9
   22.9
   Plt
   [**Telephone/Fax (3) 4077**]57
   268
   327
   315
   Cr
   1.2
   1.0
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   TCO2
   23
   Glucose
   84
   82
   45
   54
   92
   60
   90
   127
   112
   Other labs: PT / PTT / INR:12.6/31.1/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:68.4 %, Lymph:23.9 %, Mono:5.2 %,
   Eos:2.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   A:
   1- Fever:
   - overnight CT scan of the chest was performed that revealed
   considerable consolidation in the lung and collapse
   - on vancomycin and meropenum
   - will plan on bronchscopy today to see if can open up collapse and
   perhaps improve persistent fever
   2- Resp Failure
   - trach collar as tolerated
   3- contractures
   - physical therapy
   4- Encephalopathy
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-8**] 10:43 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2145-12-09 07:07:00 Physician Resident Progress Note
Chief Complaint: fevers
   24 Hour Events:
 BRONCHOSCOPY - At [**2145-12-8**] 02:56 PM
 BLOOD CULTURED - At [**2145-12-9**] 05:00 AM
 SPUTUM CULTURE - At [**2145-12-9**] 05:00 AM
 WOUND CULTURE - At [**2145-12-9**] 05:00 AM
   PEG site
 FEVER - 101.1
F - [**2145-12-8**] 12:00 PM
   - Had bronchoscopy which was unremarkable
   - Discussed case with social work; will discuss with family today re:
   possible guardianship
   - ? Thoracentesis today
   - Hypotensive [**12-9**] AM to SBPs 80s.  Given 2L NS with good response.
   Blood cultures and fungal markers sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-8**] 08:00 PM
   Meropenem - [**2145-12-9**] 04:03 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2145-12-8**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2145-12-8**] 04:05 PM
   Heparin Sodium - [**2145-12-9**] 12:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   nonverbal
   Flowsheet Data as of  [**2145-12-9**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 120 (104 - 125) bpm
   BP: 122/62(77) {73/40(43) - 137/75(100)} mmHg
   RR: 19 (15 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  3,071 mL
                                                                  1,683 mL
   PO:
             TF:
                                                                    831 mL
                                                                    521 mL
   IVF:
                                                                  1,380 mL
                                                                  1,162 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    445 mL
   Urine:
                                                                  1,655 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,416 mL
                                                                  1,238 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GEN: Opens eyes to voice, does not follow commands, NAD
   HEENT: Pupils minimally reactive, MMM, tracheostomy site intact,
   cervical collar in place, pupils reactive
   CV: : RRR, s1 + s2, no murmurs, rubs, gallops
   PULM: diminisished breath sounds left base, rales bilaterally at bases,
   no wheeze/rhonchi
   ABD:  +bs, soft, ND.
   EXT:  2+ distal pulses, 1+ peripheral [**Last Name (un) 2053**] WWP, with bilateral laterl
   foot wounds with possible necrosis, 1+ edema, no clubbing or cyanosis
   NEURO:  no purposeful movement, contracted in both upper and lower
   extremities
   Labs / Radiology
   285 K/uL
   7.3 g/dL
   101 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.0 mEq/L
   21 mg/dL
   107 mEq/L
   137 mEq/L
   21.2 %
   4.5 K/uL
        [image002.jpg]
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
   WBC
   4.2
   5.0
   4.4
   5.3
   6.6
   5.4
   4.5
   Hct
   27.2
   25.6
   22.9
   22.1
   23.9
   22.9
   21.2
   Plt
   273
   285
   257
   [**Telephone/Fax (3) 4094**]
   285
   Cr
   1.0
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.6
   TCO2
   23
   Glucose
   82
   45
   54
   92
   60
   90
   127
   112
   101
   Other labs: PT / PTT / INR:12.8/28.8/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:68.4 %, Lymph:23.9 %, Mono:5.2 %,
   Eos:2.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3955**] is a 55 year old male with hypertension, type II diabetes,
   alcohol abuse, ESLD s/p orthotopic liver transplant in 6/00, and severe
   motor vehicle accident with cervical spinal fracture and subsequent
   tracheostomy and PEG tube placement in [**8-/2145**] who is transferred to our
   hospital for evaluation of fevers of unknown origin; now HD#8
   Fever: On Meropenem and vanco now for OSH +Blood cultures
   (enterobacter) and MRSA/Pseudomonas in sputum.   Sputum [**12-4**]
   significant for proteus and pseudomononas. Repeat sputum [**12-6**] showed
   mixed flora. Repeat sputum [**12-9**] pending.  Continues to spike daily
   fevers.   CT of chest with compromised lung fields/atelectasis and
   bilateral pleural effusions.  Unable to tap due to lack of consent.
   Fevers improved since bronch yesterday, so a component of the fevers
   may have been [**2-6**] atelectasis.
   - f/u cultures including fungal cxs sent [**12-9**]
   - continue meropenem/Vanco for goal of 2 weeks of treatment. If
   clinically worsens , will consider adding anti-fungal.
   - f/u survaillence blood Cx
   - Hold on paracentesis of small LEFT pleural effusions unless fevers
   recur
   Hypotension: Hypotensive to 70s in am [**12-9**]. Responded to fluid. Sent
   fungal fxs in case of sepsis.
   -f/u fungal cxs
   - TSH
   -Fluid bolus prn for hypotension
   Encephalopathy:  Patient with chronic depressed mental status; stable
   since admission.
   - cautious fentanyl if evidence of discomfort
   Chronic Respiratory Failure:  Patient doing well on trach mask but CT
   scan with right and left lung collapse.
   - Consider transitioning back to AC if hypoxic or decrease in RR
   noted.
   Elevated Creatinine:  Resolved
   - Monitor daily
   ESLD s/p liver transplant [**6-/2137**].  Liver team following.  Checking daily
   prograf levels.  3.9 yesterday; maintained on 1.5mg [**Hospital1 7**] dosing. No note
   from Liver team yesterday
   -  f/u liver recs
   Tachycardia:  persistant.   No intervention.
   - fentanyl for discomfort
   Type II Diabetes:  Sugars well controlled; no changes.
   - continue lantus 28 U
   - continue sliding scale
   Hypertension:  Blood pressures currently stable.  Not on any agents.
   - continue to monitor
   FEN: TF via PEG, continue free water flushes, replete lytes PRN
   Access: PICC line [**12-3**], PEG
   PPX: sqh, ppi
   Communication: family
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-9**] 02:02 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-12-09 10:35:00 Physician Attending Progress Note
Chief Complaint: Fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   - Had some hypotension overnight but otherwise no new changes.  Has not
   had a fever since the bronchoscopy.
   -
   24 Hour Events:
 BRONCHOSCOPY - At [**2145-12-8**] 02:56 PM
 BLOOD CULTURED - At [**2145-12-9**] 05:00 AM
 SPUTUM CULTURE - At [**2145-12-9**] 05:00 AM
 WOUND CULTURE - At [**2145-12-9**] 05:00 AM
   PEG site
 FEVER - 101.1
F - [**2145-12-8**] 12:00 PM
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2145-12-9**] 04:03 AM
   Vancomycin - [**2145-12-9**] 08:17 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-8**] 04:05 PM
   Heparin Sodium - [**2145-12-9**] 12:00 AM
   Other medications:
   Med List Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-9**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 110 (104 - 125) bpm
   BP: 121/74(85) {73/40(48) - 137/75(100)} mmHg
   RR: 26 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  3,071 mL
                                                                  2,439 mL
   PO:
             TF:
                                                                    831 mL
                                                                    752 mL
   IVF:
                                                                  1,380 mL
                                                                  1,687 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    445 mL
   Urine:
                                                                  1,655 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,416 mL
                                                                  1,994 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   285 K/uL
   101 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.0 mEq/L
   21 mg/dL
   107 mEq/L
   137 mEq/L
   21.2 %
   4.5 K/uL
        [image002.jpg]
                            [**2145-12-2**]  03:21 PM
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
   WBC
   4.2
   5.0
   4.4
   5.3
   6.6
   5.4
   4.5
   Hct
   27.2
   25.6
   22.9
   22.1
   23.9
   22.9
   21.2
   Plt
   273
   285
   257
   [**Telephone/Fax (3) 4094**]
   285
   Cr
   1.0
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.6
   TCO2
   23
   Glucose
   82
   45
   54
   92
   60
   90
   127
   112
   101
   Other labs: PT / PTT / INR:12.8/28.8/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:68.4 %, Lymph:23.9 %, Mono:5.2 %,
   Eos:2.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   1) Fevers
   - has been afebrile since bronchoscopy yesterday.  It is possible that
   the bronchoscopy has led to resolution of mucous plugging and
   atelectasis and helped resolve the temperatures.
   - continue antibiotics
   2) Respiratory Failure
   - improved and off ventilator
   3) Liver transplant
   -
   4) Depressed Mental Status:
   - obtain HCT
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-9**] 09:10 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 30

2145-12-10 07:10:00 Physician Resident Progress Note
Chief Complaint: Fever
   24 Hour Events:
    Afebrile now for ~36 hours.
    ID - Recc. Head Ct +/- LP, neuro consult, +/- thoracentesis, some
   concern for locked in sydrome per attg
    Tacrolimus level 3.8- no real target
    TSH - 5.8 - Repeat TFTs, Consider Endo consult
    Social Work  - No ability to transfer to NE [**Hospital1 **]. Attempting to
   transfer guardianship to Sister, who is more reliable
   Had physical therapy yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-9**] 08:00 PM
   Meropenem - [**2145-12-10**] 04:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-10**] 12:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  unable to answer
   Flowsheet Data as of  [**2145-12-10**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.3
   HR: 113 (105 - 132) bpm
   BP: 115/64(74) {100/53(65) - 137/96(102)} mmHg
   RR: 22 (12 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  5,427 mL
                                                                  1,434 mL
   PO:
             TF:
                                                                  1,669 mL
                                                                    493 mL
   IVF:
                                                                  2,359 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    690 mL
   Urine:
                                                                  1,690 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,737 mL
                                                                    744 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 99%
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   385 K/uL
   7.9 g/dL
   57 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.0 mEq/L
   19 mg/dL
   105 mEq/L
   136 mEq/L
   22.8 %
   6.1 K/uL
        [image002.jpg]
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
                             [**2145-12-10**]  04:14 AM
   WBC
   4.2
   5.0
   4.4
   5.3
   6.6
   5.4
   4.5
   6.1
   Hct
   27.2
   25.6
   22.9
   22.1
   23.9
   22.9
   21.2
   22.8
   Plt
   273
   285
   257
   [**Telephone/Fax (3) 4094**]
   285
   385
   Cr
   1.0
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.6
   0.6
   Glucose
   82
   45
   54
   92
   60
   90
   127
   112
   101
   57
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:68.2 %, Lymph:23.0 %, Mono:6.3 %,
   Eos:2.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.4 mg/dL, PO4:3.3 mg/dL
[**2145-12-9**] 6:18 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2145-12-9**]):
      >25 PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
      secretions. Bacterial culture results are invalid.
      PLEASE SUBMIT ANOTHER SPECIMEN.
   Assessment and Plan
   Mr. [**Known lastname 3955**] is a 55 year old male with hypertension, type II diabetes,
   alcohol abuse, ESLD s/p orthotopic liver transplant in 6/00, and severe
   motor vehicle accident with cervical spinal fracture and subsequent
   tracheostomy and PEG tube placement in [**8-/2145**] who is transferred to our
   hospital for evaluation of fevers of unknown origin; now HD#8
   Fever: Afebrile now for 36 hours.  On Meropenem and vanco for OSH
   +Blood cultures (enterobacter) and MRSA/Pseudomonas in sputum CT of
   chest with compromised lung fields/atelectasis and bilateral pleural
   effusions.  Unable to tap due to lack of consent.  Fevers improved
   since bronch yesterday, so a component of the fevers may have been [**2-6**]
   atelectasis.
   - f/u cultures including fungal cxs sent [**12-9**]
   - continue meropenem/Vanco for goal of 2 weeks of treatment. If
   clinically worsens , will consider adding anti-fungal.
   - f/u survaillence blood Cx
   - Hold on paracentesis of small LEFT pleural effusions unless fevers
   recur
   Hypotension: Hypotensive to 70s in am [**12-9**]. Responded to fluid. Sent
   fungal fxs in case of sepsis.
   -f/u fungal cxs
   - TSH
   -Fluid bolus prn for hypotension
   Encephalopathy:  Patient with chronic depressed mental status; stable
   since admission.
   - cautious fentanyl if evidence of discomfort
   - TFTs
   Chronic Respiratory Failure:  Patient doing well on trach mask but CT
   scan with right and left lung collapse.
   - Consider transitioning back to AC if hypoxic or decrease in RR
   noted.
   Elevated Creatinine:  Resolved
   - Monitor daily
   ESLD s/p liver transplant [**6-/2137**].  Liver team following.  Checking daily
   prograf levels.  3.9 yesterday; maintained on 1.5mg [**Hospital1 7**] dosing. No note
   from Liver team yesterday
   -  f/u liver recs
   Tachycardia:  persistant.   No intervention.
   - fentanyl for discomfort
   Type II Diabetes:  Sugars well controlled; no changes.
   - continue lantus 28 U
   - continue sliding scale
   Hypertension:  Blood pressures currently stable.  Not on any agents.
   - continue to monitor
   FEN: TF via PEG, continue free water flushes, replete lytes PRN
   Communication: family
   ICU Care
   Nutrition:  Replete with Fiber (Full) - [**2145-12-10**] 12:00 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   PEG
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Code status: Full code
   Disposition:ICU

2145-12-10 07:25:00 Physician Resident Progress Note
Chief Complaint: Fevers
   24 Hour Events:
   Pt seen by physical therapy; recommended daily PT for contractures
   ID recommended Head Ct +/- LP and neuro consult for concern of CNS
   infection vs.
locked in syndrome
.  Would still c consider
   thoracentesis
   Tacrolimus level 3.8 - TSH - 5.8
   Social Work following.    Pt not eligible for transfer to NE [**Hospital1 **].
   Attempting to transfer guardianship to Sister.
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-9**] 08:00 PM
   Meropenem - [**2145-12-10**] 10:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-10**] 08:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  pt non-responsive
   Flowsheet Data as of  [**2145-12-10**] 02:59 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 116 (105 - 120) bpm
   BP: 134/67(84) {100/53(65) - 137/96(102)} mmHg
   RR: 18 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  5,427 mL
                                                                  2,978 mL
   PO:
             TF:
                                                                  1,669 mL
                                                                  1,000 mL
   IVF:
                                                                  2,359 mL
                                                                    488 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                  1,310 mL
   Urine:
                                                                  1,690 mL
                                                                  1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,737 mL
                                                                  1,668 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   GEN: does not follow commands, NAD
   HEENT: Pupils equal, reactive 3
2mm, MMM, tracheostomy site intact,
   cervical collar in place
   CV: : RRR, s1 + s2, no murmurs, rubs, gallops
   PULM: faint rales bilaterally at bases, +upper airwar noise.  no
   wheeze/rhonchi
   ABD:  +bs, soft, ND.
   EXT:  2+ distal pulses, 1+ peripheral edema WWP, with bilateral lateral
   foot wounds with ? necrosis,
   NEURO: Opens eyes to voice,  Does not tract movement, does not blink to
   threat.  No purposeful movement elicited.  Contracted in both upper and
   lower extremities.
   Labs / Radiology
   385 K/uL
   7.9 g/dL
   57 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.0 mEq/L
   19 mg/dL
   105 mEq/L
   136 mEq/L
   22.8 %
   6.1 K/uL
        [image002.jpg]
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
                             [**2145-12-10**]  04:14 AM
   WBC
   4.2
   5.0
   4.4
   5.3
   6.6
   5.4
   4.5
   6.1
   Hct
   27.2
   25.6
   22.9
   22.1
   23.9
   22.9
   21.2
   22.8
   Plt
   273
   285
   257
   [**Telephone/Fax (3) 4094**]
   285
   385
   Cr
   1.0
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.6
   0.6
   Glucose
   82
   45
   54
   92
   60
   90
   127
   112
   101
   57
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:68.2 %, Lymph:23.0 %, Mono:6.3 %,
   Eos:2.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Mr. [**Known lastname 3955**] is a 55 year old male with hypertension, type II diabetes,
   alcohol abuse, ESLD s/p orthotopic liver transplant in 6/00, and severe
   motor vehicle accident with cervical spinal fracture and subsequent
   tracheostomy and PEG tube placement in [**8-/2145**] who is transferred to our
   hospital for evaluation of fevers of unknown origin.
    Fever: Afebrile for 36 [**Last Name (un) 2590**].  On meropenem and vanco ~ 9 days for OSH
   +Blood cultures (enterobacter) and MRSA/Pseudomonas and proteus from
   sputun cultures.   Repeat sputum [**12-9**] with mixed flora. Fevers now
   considered to be most consitent with pneumonia.
   - f/u cultures including fungal cxs sent [**12-9**]
   - continue meropenem/Vanco for goal of 2 weeks of treatment.
   - Hold on paracentesis of small LEFT pleural effusions unless fevers
   recur
   Hypotension: Hypotensive yesterday to 70s in am [**12-9**]. Responded to
   fluid. Hypotension had not reoccured.
   -f/u  cxs
   Encephalopathy:  Patient with chronic depressed mental status (s/p
   5minute asystolic arrest at some point following [**8-13**] automobile
   accident).   Concern was raised for possible responsive behavior
   however, neurologic exam today appears unchanged/stable from previous
   and there was no idication of purposful movement.  Given the resoution
   of fever, acute CNS infection is not suspected at this time and need
   for LP has diminished.  TSH was elevated, but T4 normal.
   -          cautious fentanyl if evidence of discomfort
   -          consider LP if fevers return.
   Respiratory Failure: Improving.  Patient stable for several days on
   trach mask.
   - f/u clx
   - continue abx
   - Consider transitioning back to AC if hypoxic or decrease in RR
   noted.
   ESLD s/p liver transplant [**6-/2137**].  Per renal team, pt now stable on
   dosing regimen.  Will not draw further levels daily.
   - f/u as needed
    Tachycardia:  persistant.   No intervention.
   - fentanyl for discomfort
   Type II Diabetes:  Sugars well controlled; no changes.
   - continue lantus 28 U
   - continue sliding scale
   FEN: TF via PEG, continue free water flushes, replete lytes PRN
   Social Issues:  [**Name (NI) **] son is guardian but he has been difficult to
   contact and there is concern for substance abuse which may interfere
   with his decision making.  Pts sisters now attempting to obtain
   guardianship.  Social work following.
   ICU Care
   Nutrition:  Tube feeds
   Glycemic Control:
   Lines:   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Code status: Full code
   Disposition:ICU

2145-12-10 12:25:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   Overnight, no new problems.  [**Name (NI) **] non-verbal and unable to provide
   history.  Still has not had a temperature since the bronchoscopy.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-9**] 08:00 PM
   Meropenem - [**2145-12-10**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain
   Flowsheet Data as of  [**2145-12-10**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 108 (105 - 120) bpm
   BP: 105/66(67) {100/53(65) - 137/96(102)} mmHg
   RR: 24 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  5,427 mL
                                                                  1,959 mL
   PO:
             TF:
                                                                  1,669 mL
                                                                    854 mL
   IVF:
                                                                  2,359 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    990 mL
   Urine:
                                                                  1,690 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,737 mL
                                                                    969 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   HEENT:NC, AT
   Chest: CTA bilaterally
   Heart: S1S2 reg
   Abd: soft, NT ND
   Neurologic: Non-verbal, unresponsive, contracted
   Labs / Radiology
   7.9 g/dL
   385 K/uL
   57 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.0 mEq/L
   19 mg/dL
   105 mEq/L
   136 mEq/L
   22.8 %
   6.1 K/uL
        [image002.jpg]
                            [**2145-12-3**]  04:34 AM
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
                             [**2145-12-10**]  04:14 AM
   WBC
   4.2
   5.0
   4.4
   5.3
   6.6
   5.4
   4.5
   6.1
   Hct
   27.2
   25.6
   22.9
   22.1
   23.9
   22.9
   21.2
   22.8
   Plt
   273
   285
   257
   [**Telephone/Fax (3) 4094**]
   285
   385
   Cr
   1.0
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.6
   0.6
   Glucose
   82
   45
   54
   92
   60
   90
   127
   112
   101
   57
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:68.2 %, Lymph:23.0 %, Mono:6.3 %,
   Eos:2.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   1)       Fevers
   -          likely secondary to post-obstructive pneumonia which
   improved with bronchoscopy
   -          continue the antibiotics
   2)       Mental Status change
   -          thiamine
   -          neurology to see if any further insight/thoughts into
   underlying mental status but the most likely etiology is that patient
   suffered anoxic brain injury after MVC
   3)       Liver Transplant
   4)       Contractures: Physical therapy to continue to work with
   patient
   5)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-10**] 07:05 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2145-12-11 09:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2145-12-10**] 05:30 PM
 BLOOD CULTURED - At [**2145-12-10**] 11:52 PM
   one set from peripheral stick
 SPUTUM CULTURE - At [**2145-12-10**] 11:53 PM
 URINE CULTURE - At [**2145-12-10**] 11:53 PM
 FEVER - 101.3
F - [**2145-12-10**] 07:25 PM
   Neuro consult for mental status- recommended
   afebrile, on abx approaching end of course, expectorating well, after
   post-obstructive (s/p bronch) PNA
   Giving  thiamine today in case of Wernicke's
   Social work still working on guardianship
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2145-12-11**] 04:22 AM
   Vancomycin - [**2145-12-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2145-12-10**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2145-12-11**] 08:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  non-responsive
   Flowsheet Data as of  [**2145-12-11**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.2
C (100.8
   HR: 106 (100 - 121) bpm
   BP: 102/58(69) {75/39(47) - 135/94(92)} mmHg
   RR: 27 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  4,978 mL
                                                                  2,185 mL
   PO:
             TF:
                                                                  1,650 mL
                                                                    766 mL
   IVF:
                                                                  1,078 mL
                                                                    610 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    710 mL
   Urine:
                                                                  1,890 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,088 mL
                                                                  1,475 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   GEN: does not follow commands, NAD, diaphoretic
   HEENT: Pupils equal, reactive 3
2mm, MMM, tracheostomy site intact,
   cervical collar in place
   CV: : RRR, s1 + s2, no murmurs, rubs, gallops
   PULM: CTA anteriorly  no wheeze/rhonchi
   ABD:  +bs, soft, ND.
   EXT:  2+ distal pulses, 1+ peripheral edema WWP, with bilateral lateral
   foot wounds with ? necrosis,
   NEURO: Opens eyes to voice,  Does not tract movement, does not blink to
   threat.  No purposeful movement elicited.  Contracted in both upper and
   lower extremities.
   Labs / Radiology
   261 K/uL
   7.0 g/dL
   65 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.5 mEq/L
   19 mg/dL
   105 mEq/L
   138 mEq/L
   19.8 %
   4.8 K/uL
        [image002.jpg]
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
                             [**2145-12-10**]  04:14 AM
                             [**2145-12-11**]  02:51 AM
   WBC
   5.0
   4.4
   5.3
   6.6
   5.4
   4.5
   6.1
   4.8
   Hct
   25.6
   22.9
   22.1
   23.9
   22.9
   21.2
   22.8
   19.8
   Plt
   285
   257
   268
   327
   [**Telephone/Fax (2) 4127**]61
   Cr
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.6
   0.6
   0.7
   Glucose
   45
   54
   92
   60
   90
   127
   112
   101
   57
   65
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:68.2 %, Lymph:23.0 %, Mono:6.3 %,
   Eos:2.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Mr. [**Known lastname 3955**] is a 55 year old male with hypertension, type II diabetes,
   alcohol abuse, ESLD s/p orthotopic liver transplant in 6/00, and severe
   motor vehicle accident with cervical spinal fracture and subsequent
   tracheostomy and PEG tube placement in [**8-/2145**] who is transferred to our
   hospital for evaluation of fevers of unknown origin.
   Fever: had been  afebrile for 36 hours but has now re-spiked to 101.
   On meropenem and vanco since admission for OSH +Blood cultures
   (enterobacter) and MRSA/Pseudomonas and proteus from sputum cultures.
    Repeat sputum [**12-9**] with mixed flora; still pending.   Still feeling
   that these fevers are related to possible post-obstructive pneumonia,
   persistant pleural effusions.
   - f/u cultures; repeat sputum
   - continue meropenem/Vanco for goal of 2 weeks of treatment ([**12-15**]).
   ID to reassess at that time
   - Chest PT for treatment of possible obstructive processes;
   - paracentesis of pleural effusions if no resolution
   Encephalopathy:  Appreciate neurology consult.   LP negative.  Symptoms
   not consistant with locked-in syndrome.  Will discuss pt
s mental
   status with his family and attempt to acquire additional hospital
   records to document his encephalopathy further.
   Will also aviod possible medication cause.
   Respiratory Failure: Improving.  Patient stable for several days on
   trach mask, o2 requirement decreasing.
   - continue to f/u clx
   - continue abx
   - Consider transitioning back to AC if hypoxic or decrease in RR
   noted.
   Pain control:  unable to assess fully given pt
s mental status.
   Conerned that fentanyl drip may be clouding his mental status
   evaluation.
   - wean drip and transition to fentanyl patch for basal pain control
   - prn pain control as needed.
   ESLD s/p liver transplant [**6-/2137**].  Per renal team, pt now stable on
   dosing regimen.  Will not draw further levels daily.
   - f/u as needed
    Tachycardia:  persistant.   No intervention.
   Type II Diabetes:  Sugars well controlled; no changes.
   - continue lantus 28 U
   - continue sliding scale
   FEN: TF via PEG, continue free water flushes, replete lytes [**Hospital 801**]
   Health Care Proxy:  Social work following; attempting to transition
   guardianship to the patient
s sister.
   ICU [**Name2 (NI) 81**]
   Nutrition:  Replete with Fiber (Full) - 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT:  sq Heparin,
   Stress ulcer:  ppi
   Communication:  sister [**Name (NI) 461**]/[**First Name4 (NamePattern1) 2057**]
   [**Last Name (NamePattern1) 36**] status: Full code
   Disposition:  ICU
 with potential transfer to floor when stable.

2145-12-11 11:08:00 Physician Attending Progress Note
Chief Complaint: Fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 year old male ,  hx liver transplant s/p MVA with contractures,
   trach for chronic resp failure, in long care facility
   Admitted [**12-1**] from OSH for fevers
   Has MS changes- pre-exisiting from this hospitalization and attributed
   to anoxia s/p arrest
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2145-12-10**] 05:30 PM
 BLOOD CULTURED - At [**2145-12-10**] 11:52 PM
   one set from peripheral stick
 SPUTUM CULTURE - At [**2145-12-10**] 11:53 PM
 URINE CULTURE - At [**2145-12-10**] 11:53 PM
 FEVER - 101.3
F - [**2145-12-10**] 07:25 PM
   *Neurology: did not feel he had locked-insyndrome; but requested add'l
   information from family regarding prior course/medications
   *Transient improvement with source attributed to lungs- better after
   bronch a few days ago.
   Overnight, spike to T101
   *LP performed
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2145-12-11**] 04:22 AM
   Vancomycin - [**2145-12-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2145-12-10**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2145-12-11**] 08:00 AM
   Other medications:
   colace, lansoprazole, baclofen, SSI and glargine at bedtime, Atrovent,
   chlorhexidine, tacrolimus
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-11**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.2
C (100.8
   HR: 106 (100 - 121) bpm
   BP: 102/58(69) {75/39(47) - 135/94(92)} mmHg
   RR: 27 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  4,978 mL
                                                                  2,185 mL
   PO:
             TF:
                                                                  1,650 mL
                                                                    766 mL
   IVF:
                                                                  1,078 mL
                                                                    610 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    710 mL
   Urine:
                                                                  1,890 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,088 mL
                                                                  1,475 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   Normal, No(t) Distant, No(t) Loud), No(t) S3, No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender
   Extremities: Contractures
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Sedated, Tone
   Labs / Radiology
   7.0 g/dL
   261 K/uL
   65 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.5 mEq/L
   19 mg/dL
   105 mEq/L
   138 mEq/L
   19.8 %
   4.8 K/uL
        [image002.jpg]
                            [**2145-12-4**]  06:15 AM
                            [**2145-12-5**]  04:35 AM
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
                             [**2145-12-10**]  04:14 AM
                             [**2145-12-11**]  02:51 AM
   WBC
   5.0
   4.4
   5.3
   6.6
   5.4
   4.5
   6.1
   4.8
   Hct
   25.6
   22.9
   22.1
   23.9
   22.9
   21.2
   22.8
   19.8
   Plt
   285
   257
   268
   327
   [**Telephone/Fax (2) 4127**]61
   Cr
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.6
   0.6
   0.7
   Glucose
   45
   54
   92
   60
   90
   127
   112
   101
   57
   65
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:68.2 %, Lymph:23.0 %, Mono:6.3 %,
   Eos:2.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.4 mg/dL, PO4:3.4 mg/dL
   Imaging: no CXR this morning
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   *Fevers back overnight after a couple days of being afebrile. Had been
   attributed to pulm process (atelectasis/plugging with possible PNA)
   which could still be the etiology. Workup so far has included multiple
   cultures, CT chest/abd/, bone scan here, gallium scan outside. Outside
   cultures _Ent/acenetobacter
   -Obtain repeat CXR given recurrent fevers, increase chest PT
   -Consider bil LENI
s for fevers w/u if fevers persist
   -Remains on Vanc/Merepenem day [**9-15**]
 hold on vanco due to high levels,
   otherwise no change
   -Obtain further info from family regarding duration of MS changes
   -Wean fentanyl from infusion to patch
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-11**] 04:41 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:

2145-12-12 07:22:00 Physician Resident Progress Note
Chief Complaint: fevers
   24 Hour Events:
   CXR with right sided atelectasis?
   liver has signed off
   initated chest pt
   called family--> pt's mental status has not been the same since
   asystolic arrest.
   1 U PRBC Hct 19
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-11**] 08:00 AM
   Meropenem - [**2145-12-12**] 04:00 AM
   Infusions:
   Fentanyl - 6.5 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-12**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   pt's mental status has not been the same since asystolic arrest
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   nonverbal
   Flowsheet Data as of  [**2145-12-12**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.9
   HR: 99 (90 - 118) bpm
   BP: 140/75(92) {88/48(63) - 159/92(106)} mmHg
   RR: 21 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  4,673 mL
                                                                  1,425 mL
   PO:
             TF:
                                                                  1,710 mL
                                                                    512 mL
   IVF:
                                                                  1,028 mL
                                                                    183 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,220 mL
                                                                    870 mL
   Urine:
                                                                  2,220 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,453 mL
                                                                    555 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   GEN: blinks to command, NAD
   HEENT: Pupils equal, reactive 3
2mm, MMM, tracheostomy site intact,
   cervical collar in place
   CV: : RRR, s1 + s2, no murmurs, rubs, gallops
   PULM: CTA anteriorly  no wheeze/rhonchi
   ABD:  +bs, soft, ND.
   EXT:  2+ distal pulses, 1+ peripheral edema WWP, with bilateral lateral
   foot wounds with ? necrosis,
   NEURO: Opens eyes to voice,  Does not tract movement No purposeful
   movement elicited.  Contracted in both upper and lower extremities.
   Labs / Radiology
   324 K/uL
   8.7 g/dL
   101 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.6 mEq/L
   18 mg/dL
   107 mEq/L
   138 mEq/L
   25.2 %
   5.2 K/uL
        [image002.jpg]
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
                             [**2145-12-10**]  04:14 AM
                             [**2145-12-11**]  02:51 AM
                             [**2145-12-11**]  04:00 PM
                             [**2145-12-12**]  03:58 AM
   WBC
   5.3
   6.6
   5.4
   4.5
   6.1
   4.8
   5.2
   Hct
   22.1
   23.9
   22.9
   21.2
   22.8
   19.8
   24.1
   25.2
   Plt
   [**Telephone/Fax (3) 4142**]85
   385
   261
   324
   Cr
   0.9
   0.8
   0.8
   0.8
   0.6
   0.6
   0.7
   0.6
   Glucose
   92
   60
   90
   127
   112
   101
   57
   65
   101
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:62.9 %, Lymph:27.1 %, Mono:7.4 %,
   Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   55 year old male with hypertension, type II diabetes, alcohol abuse,
   ESLD s/p orthotopic liver transplant in 6/00, and severe motor vehicle
   accident with cervical spinal fracture and subsequent tracheostomy and
   PEG tube placement in [**8-/2145**] who is transferred to our hospital for
   evaluation of fevers of unknown origin.
   Fever: had been  afebrile for 36 hours but has re-spiked to 101 [**12-11**].
   On meropenem and vanco since admission for OSH +Blood cultures
   (enterobacter) and MRSA/Pseudomonas and proteus from sputum cultures.
   Repeat sputum [**12-9**] with mixed flora; and [**12-10**] with GND and GNR.   Still
   feeling that these fevers are related to possible post-obstructive
   pneumonia, persistant pleural effusions. CSF benign appearing and cx
   negative.
   - f/u cultures; repeat sputum
   - continue meropenem/Vanco for goal of 2 weeks of treatment ([**12-15**]).
   ID to reassess at that time
   - Will need Vanco dose tomorrow and likely qdaily dosing therafter
   - Chest PT for treatment of possible obstructive processes;
   - paracentesis of pleural effusions if no resolution
   Encephalopathy:  Appreciate neurology consult.   LP negative.  Symptoms
   not consistant with locked-in syndrome.  Family confirms that mental
   status has been consistent since apnic arrest after ortho procedures.
   - f/u neuro reccs
   Respiratory Failure: Improving.  Patient stable for several days on
   trach mask, o2 requirement decreasing.
   - continue to f/u clx
   - continue abx
   - Consider transitioning back to AC if hypoxic or decrease in RR
   noted.
   C Spine: Question whether pt needs C collar given > 3 mo.s post op.
   - Check CT spine and consult ortho re: cspine collar necessity
   Pain control:  unable to assess fully given pt
s mental status.
   Conerned that fentanyl drip may be clouding his mental status
   evaluation.
   - off fentanyl drip
   - prn pain control as needed.
   ESLD s/p liver transplant [**6-/2137**].  Per hepatic team, will contrinue
   prograf 1.5 [**Hospital1 **].
   -f/u as needed
   -contiue prograf 1.5 [**Hospital1 **] and follow level qweekly
   Tachycardia:  persistant.   No intervention.
   Type II Diabetes:  Sugars well controlled; no changes.
   - continue lantus 28 U
   - continue sliding scale
   FEN: TF via PEG, continue free water flushes, replete lytes [**Hospital 801**]
   Health Care Proxy:  Social work following; attempting to transition
   guardianship to the patient
s sister
   ICU [**Name (NI) 81**]
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-12**] 01:54 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-12-12 11:23:00 Physician Attending Progress Note
Chief Complaint: fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo male s/p MVA/contractures
   24 Hour Events:
   Received a unit of blood
   CXR:? recurr. atelectasis
   Chest PT
   Discussed MS with family who reported onset had occurred after his
   asystolic arrest
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-11**] 08:00 AM
   Meropenem - [**2145-12-12**] 04:00 AM
   Infusions:
   Fentanyl - 6.5 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-12**] 08:00 AM
   Other medications:
   colace, lansoprazole, baclofen, SSI, atrovent, tacrolimus, thiamine,
   fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-12**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.4
C (99.4
   HR: 99 (90 - 116) bpm
   BP: 138/79(92) {88/48(63) - 159/92(106)} mmHg
   RR: 17 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  4,673 mL
                                                                  2,068 mL
   PO:
             TF:
                                                                  1,710 mL
                                                                    767 mL
   IVF:
                                                                  1,028 mL
                                                                    221 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,220 mL
                                                                  1,120 mL
   Urine:
                                                                  2,220 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,453 mL
                                                                    948 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), coarse BS bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   324 K/uL
   101 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.6 mEq/L
   18 mg/dL
   107 mEq/L
   138 mEq/L
   25.2 %
   5.2 K/uL
        [image002.jpg]
                            [**2145-12-5**]  06:57 PM
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
                             [**2145-12-10**]  04:14 AM
                             [**2145-12-11**]  02:51 AM
                             [**2145-12-11**]  04:00 PM
                             [**2145-12-12**]  03:58 AM
   WBC
   5.3
   6.6
   5.4
   4.5
   6.1
   4.8
   5.2
   Hct
   22.1
   23.9
   22.9
   21.2
   22.8
   19.8
   24.1
   25.2
   Plt
   [**Telephone/Fax (3) 4142**]85
   385
   261
   324
   Cr
   0.9
   0.8
   0.8
   0.8
   0.6
   0.6
   0.7
   0.6
   Glucose
   92
   60
   90
   127
   112
   101
   57
   65
   101
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:62.9 %, Lymph:27.1 %, Mono:7.4 %,
   Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR: slight improvement in atelectaiss compared to yester
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   55 yo male with cervical injury s/p MVA, prior orthotopic liver
   transplant, diabetes admitted with ongoing fevers. Still some fevers,
   though not as high. Resp failure improved and has not required
   ventilation for 3-5 days
   1. Remains on vanco/merepenem for PNA/atelectasis
   2. Continue aggressive chest PT, alb/atrov
   3. Re: MS changes-- family reports that he has been like this since
   asystolic arrest suggesting anoxic damage. No current intervention
   planned
   4. CT to assess for C-spine clearance
   5. Remains here for chest PT demands/suctioning-- will see if
   appropriate for floor later.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-12**] 01:54 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2145-12-13 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID
 Rec: D/c Vanco, Continue [**Last Name (un) **] and add Tobramycin 350 mg Q daily
   - CT C spine to evaluate for C collar necessity with plan to curbside
   ortho re: duration --> No evidence of acute cervical spine fracture.
   Medial right clavicle fracture.
   - Chest PT and frequest suctioning continues
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-11**] 08:00 AM
   Meropenem - [**2145-12-13**] 03:30 AM
   Tobramycin - [**2145-12-13**] 05:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-12**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-13**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 119 (98 - 120) bpm
   BP: 156/86(99) {100/64(72) - 159/111(121)} mmHg
   RR: 23 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  4,355 mL
                                                                  1,527 mL
   PO:
             TF:
                                                                  1,676 mL
                                                                    497 mL
   IVF:
                                                                    750 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  2,415 mL
                                                                    595 mL
   Urine:
                                                                  2,415 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,940 mL
                                                                    932 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   GEN: blinks to command, NAD
   HEENT: Pupils equal, reactive 3
2mm, MMM, tracheostomy site intact,
   cervical collar in place
   CV: : RRR, s1 + s2, no murmurs, rubs, gallops
   PULM: CTA anteriorly no wheeze/rhonchi
   ABD: +bs, soft, ND.
   EXT: 2+ distal pulses, 1+ peripheral edema WWP, with bilateral lateral
   foot wounds with ? necrosis,
   NEURO: Opens eyes to voice, Does not tract movement No purposeful
   movement elicited. Contracted in both upper and lower extremities.
   Labs / Radiology
   318 K/uL
   8.4 g/dL
   120 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.5 mEq/L
   20 mg/dL
   100 mEq/L
   135 mEq/L
   24.6 %
   5.3 K/uL
        [image002.jpg]
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
                             [**2145-12-10**]  04:14 AM
                             [**2145-12-11**]  02:51 AM
                             [**2145-12-11**]  04:00 PM
                             [**2145-12-12**]  03:58 AM
                             [**2145-12-13**]  04:40 AM
   WBC
   5.3
   6.6
   5.4
   4.5
   6.1
   4.8
   5.2
   5.3
   Hct
   22.1
   23.9
   22.9
   21.2
   22.8
   19.8
   24.1
   25.2
   24.6
   Plt
   [**Telephone/Fax (3) 4142**]85
   [**Telephone/Fax (2) 4164**]18
   Cr
   0.8
   0.8
   0.8
   0.6
   0.6
   0.7
   0.6
   0.7
   Glucose
   60
   90
   127
   112
   101
   57
   65
   101
   120
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:62.9 %, Lymph:27.1 %, Mono:7.4 %,
   Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 .H/O CERVICAL FRACTURE (WITH SPINAL CORD INJURY)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Assessment and Plan
   55 year old male with hypertension, type II diabetes, alcohol abuse,
   ESLD s/p orthotopic liver transplant in 6/00, and severe motor vehicle
   accident with cervical spinal fracture and subsequent tracheostomy and
   PEG tube placement in [**8-/2145**] who is transferred to our hospital for
   evaluation of fevers of unknown origin.
   #Fever: The patient had been afebrile for 36 hours but has re-spiked to
   101 [**12-11**]. On meropenem and vanco since admission for OSH +Blood
   cultures (enterobacter) and MRSA/Pseudomonas and proteus from sputum
   cultures. Repeat sputum [**12-9**] with mixed flora; and [**12-10**] with GND and
   GNR. Still feeling that these fevers are related to possible
   post-obstructive pneumonia, persistant pleural effusions. CSF from last
   week
s LP benign appearing and cx negative.
   - f/u cultures; repeat sputum
   - continue meropenem/Vanco for goal of 2 weeks of treatment ([**12-15**]). ID
   to reassess at that time
   - Chest PT for treatment of possible obstructive processes;
   - considering paracentesis of pleural effusions if no resolution
   #Encephalopathy: Appreciate neurology consult. LP negative. Symptoms
   not consistant with locked-in syndrome. Family confirms that mental
   status has been consistent since apnic arrest after ortho procedures.
   - f/u neuro reccs
   #Respiratory Failure: Improving. Patient stable for several days on
   trach mask, o2 requirement decreasing.
   - continue to f/u clx
   - continue abx
   - Consider transitioning back to AC if hypoxic or decrease in RR noted.
   #C Spine: Question whether pt needs C collar given > 3 mo.s post op.
   -f/u CT spine touch-base w ortho to get clearnace for removal of collar
   #Pain control: unable to assess fully given pt
s mental status.
   Conerned that fentanyl drip may be clouding his mental status
   evaluation.
   - off fentanyl drip
   - prn pain control as needed.
   #ESLD s/p liver transplant [**6-/2137**]. Per hepatic team, will contrinue
   prograf 1.5 [**Hospital1 **].
   -f/u as needed
   -contiue prograf 1.5 [**Hospital1 **] and follow level qweekly
   #Tachycardia: persistant but assymptomatic as far as can be assessed.
   No intervention.
   #Type II Diabetes: Sugars well controlled; no changes.
   - continue lantus 28 U
   - continue sliding scale
   #FEN: TF via PEG, continue free water flushes, replete lytes PRN
   #Health Care Proxy: Social work following; attempting to transition
   guardianship to the patient
s sister
   ICU [**Name (NI) 81**]
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-12**] 01:54 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-12-13 13:15:00 Physician Attending Progress Note
Chief Complaint: Respirsatory failure, pneumonia, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continues on antibiotics. No improvement in mental status. Low
   grade fever persists.
   Tolerating trach mask.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-11**] 08:00 AM
   Tobramycin - [**2145-12-13**] 05:45 AM
   Meropenem - [**2145-12-13**] 10:18 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-13**] 08:32 AM
   Lansoprazole (Prevacid) - [**2145-12-13**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-13**] 01:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 111 (100 - 120) bpm
   BP: 136/71(88) {100/64(72) - 159/103(109)} mmHg
   RR: 21 (16 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  4,355 mL
                                                                  2,446 mL
   PO:
             TF:
                                                                  1,676 mL
                                                                    907 mL
   IVF:
                                                                    750 mL
                                                                    429 mL
   Blood products:
   Total out:
                                                                  2,415 mL
                                                                    995 mL
   Urine:
                                                                  2,415 mL
                                                                    995 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,940 mL
                                                                  1,451 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Coarse, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous:
   Scattered rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed, Patient will trach to voice or
   touch
   Labs / Radiology
   8.4 g/dL
   318 K/uL
   120 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.5 mEq/L
   20 mg/dL
   100 mEq/L
   135 mEq/L
   24.6 %
   5.3 K/uL
        [image002.jpg]
                             [**2145-12-6**]  04:12 AM
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
                             [**2145-12-10**]  04:14 AM
                             [**2145-12-11**]  02:51 AM
                             [**2145-12-11**]  04:00 PM
                             [**2145-12-12**]  03:58 AM
                             [**2145-12-13**]  04:40 AM
   WBC
   5.3
   6.6
   5.4
   4.5
   6.1
   4.8
   5.2
   5.3
   Hct
   22.1
   23.9
   22.9
   21.2
   22.8
   19.8
   24.1
   25.2
   24.6
   Plt
   [**Telephone/Fax (3) 4142**]85
   [**Telephone/Fax (2) 4164**]18
   Cr
   0.8
   0.8
   0.8
   0.6
   0.6
   0.7
   0.6
   0.7
   Glucose
   60
   90
   127
   112
   101
   57
   65
   101
   120
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:62.9 %, Lymph:27.1 %, Mono:7.4 %,
   Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 .H/O CERVICAL FRACTURE (WITH SPINAL CORD INJURY)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ANEMIA
   PNEUMONIA
   Patient being treated treated for pulmonary source of infection. WBC
   normal. Low grade fever persists. Antibiotics have been adjusted for
   lastest cultures for gram negative organisms. Consider switching from
   meropenem to Zosyn based on lastest sputum culture pending check on
   sensitivity of initial enterobacter in blood.
   Mental status has improved somewhat as fentanyl reduced.
   Oxygenation good on trach mask; patient does not appear to be in
   respiratory distress.
   Hct stable; not at threshold for transfusion.
   Renal function normalized.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-12**] 01:54 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  Not on vent.
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2145-12-14 07:12:00 Physician Resident Progress Note
Chief Complaint: Fevers
   24 Hour Events:
   No overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-12-11**] 08:00 AM
   Meropenem - [**2145-12-14**] 04:00 AM
   Tobramycin - [**2145-12-14**] 06:30 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2145-12-13**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2145-12-14**] 12:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  pt non-responsive
   Flowsheet Data as of  [**2145-12-14**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 120 (90 - 120) bpm
   BP: 166/92(111) {104/59(72) - 166/97(111)} mmHg
   RR: 27 (16 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  4,097 mL
                                                                    814 mL
   PO:
             TF:
                                                                  1,679 mL
                                                                    485 mL
   IVF:
                                                                    938 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                  1,065 mL
   Urine:
                                                                  1,725 mL
                                                                  1,065 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,372 mL
                                                                   -251 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   Physical Examination
   GEN: blinks to command, NAD
   HEENT: Pupils equal, reactive 3
2mm, MMM, tracheostomy site intact,
   cervical collar in place
   CV: : RRR, s1 + s2, no murmurs, rubs, gallops
   PULM: CTA anteriorly no wheeze/rhonchi
   ABD: +bs, soft, ND.
   EXT: 2+ distal pulses, 1+ peripheral edema WWP, with bilateral lateral
   foot wounds with ? necrosis,
   NEURO: Opens eyes to voice, Does not tract movement No purposeful
   movement elicited. Contracted in both upper and lower extremities.
   Labs / Radiology
   324 K/uL
   9.0 g/dL
   80 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.6 mEq/L
   24 mg/dL
   100 mEq/L
   136 mEq/L
   26.0 %
   5.3 K/uL
        [image002.jpg]
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
                             [**2145-12-10**]  04:14 AM
                             [**2145-12-11**]  02:51 AM
                             [**2145-12-11**]  04:00 PM
                             [**2145-12-12**]  03:58 AM
                             [**2145-12-13**]  04:40 AM
                             [**2145-12-14**]  03:40 AM
   WBC
   6.6
   5.4
   4.5
   6.1
   4.8
   5.2
   5.3
   5.3
   Hct
   23.9
   22.9
   21.2
   22.8
   19.8
   24.1
   25.2
   24.6
   26.0
   Plt
   327
   315
   285
   [**Telephone/Fax (3) **]
   318
   324
   Cr
   0.8
   0.8
   0.6
   0.6
   0.7
   0.6
   0.7
   0.7
   Glucose
   90
   127
   112
   101
   57
   65
   101
   120
   80
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:62.9 %, Lymph:27.1 %, Mono:7.4 %,
   Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:9.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.2 mg/dL
   CT C-Spine
   IMPRESSION:
    1. Surgical fusion of C5-T1 posteriorly and C6-T1 anteriorly, without
   definite hardware complication.
     2. No evidence of cervical spine fracture.
     3. Medial right clavicle fracture.
     4. Sphenoid sinus opacification, which can be seen in intubated
   patients or in sinusitis.
[**2145-12-9**] 4:20 am SWAB      Source: Jtube site.
**FINAL REPORT [**2145-12-11**]**
WOUND CULTURE (Final [**2145-12-11**]):
      Due to mixed bacterial types (>=3) an abbreviated workup is
      performed; P.aeruginosa, S.aureus and beta strep. are reported if
      present. Susceptibility will be performed on P.aeruginosa and
      S.aureus if sparse growth or greater..
         PSEUDOMONAS AERUGINOSA.    RARE GROWTH.
[**2145-12-10**] 1:55 am SPUTUM     Site: ENDOTRACHEAL
**FINAL REPORT [**2145-12-13**]**
   GRAM STAIN (Final [**2145-12-10**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2145-12-13**]):
    OROPHARYNGEAL FLORA ABSENT.
    ACINETOBACTER BAUMANNII COMPLEX.    MODERATE GROWTH.
    ACINETOBACTER BAUMANNII COMPLEX.    SPARSE GROWTH.
    PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
   GRAM NEGATIVE ROD #4.    SPARSE GROWTH.
   SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             ACINETOBACTER BAUMANNII COMPLEX
                             |          PSEUDOMONAS AERUGINOSA
                             |          |
AMIKACIN--------------                8 S
AMPICILLIN/SULBACTAM--  =>32 R
CEFEPIME--------------    16 I        8 S
CEFTAZIDIME-----------  =>64 R        8 S
CIPROFLOXACIN---------   =>4 R      =>4 R
GENTAMICIN------------     4 S     =>16 R
IMIPENEM--------------     8 I
MEROPENEM-------------                4 S
PIPERACILLIN----------               32 S
PIPERACILLIN/TAZO-----               16 S
TOBRAMYCIN------------   <=1 S     =>16 R
TRIMETHOPRIM/SULFA----   <=1 S
   Assessment and Plan
   55 year old male with hypertension, type II diabetes, alcohol abuse,
   ESLD s/p orthotopic liver transplant in 6/00, and severe motor vehicle
   accident with cervical spinal fracture and subsequent tracheostomy and
   PEG tube placement in [**8-/2145**] who is transferred to our hospital for
   evaluation of fevers of unknown origin.
   #Fever: . On meropenem and Tobra (Day2) for OSH +Blood cultures
   (enterobacter) and MRSA/Pseudomonas and proteus from sputum cultures.
   Repeat sputum [**12-9**] with mixed flora; and [**12-10**] with GND and GNR, now
   Acinetobactor and Pseudomonas.  Both sensitive to meropenem. Given the
   positive cultures and lack of addional evidence of infection, it is
   likely that his persistant fevers are related to his post-obstructive
   pneumonia and  persistant pleural effusions. CSF from last week
s LP
   benign appearing and cx negative.
   - f/u cultures; repeat sputum
   - Discuss current culture data with ID team
   - Chest PT for treatment of possible obstructive processes
   #Encephalopathy:LP negative. ? Possible improvement in mental status
   since d/c fentanyl drip.
   - continue to monitor.
   - consider repeat neuro consult if
    #Respiratory Failure:  Improved.   Patient stable for several days on
   trach mask, o2 requirement decreasing.
   - continue to f/u clx
   - continue abx
   - continue chest PT
   - Consider transitioning back to AC if hypoxic or decrease in RR noted.
   #C Spine: CT spine without evidence of fracture.
   - consut with neurosurgery for c-spine clearance.
   #Pain control: unable to assess fully given pt
s mental status.
   - prn pain control as needed.
   #ESLD s/p liver transplant [**6-/2137**]. Per hepatic team, will contrinue
   prograf 1.5 [**Hospital1 **].
   -f/u as needed
   -contiue prograf 1.5 [**Hospital1 **] and follow level qweekly
    #Tachycardia: persistant but assymptomatic as far as can be assessed.
   No intervention.
    #Type II Diabetes: Sugars well controlled; no changes.
   - continue lantus 28 U
   - continue sliding scale
   #FEN: TF via PEG, continue free water flushes, replete lytes PRN
   #Health Care Proxy: Social work following; attempting to transition
   guardianship to the patient
s sister
   ICU [**Name (NI) 81**]
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-13**] 08:50 PM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: Mouth care
   Code status: Full code
   Disposition:Transfer to floor?

2145-12-14 12:50:00 Physician Attending Progress Note
Chief Complaint: Bacteremia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient afebrile. Doing well off ventilator getting O2 via trach mask.
   WBC normal and stable.
   Hemodynamically stable.
   Mental status unchanged.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2145-12-14**] 06:30 AM
   Meropenem - [**2145-12-14**] 10:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-12-14**] 07:44 AM
   Other medications:
   PPI, baclofen, insulin, thiamine, fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-14**] 12:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 113 (90 - 126) bpm
   BP: 116/62(75) {96/59(70) - 166/92(111)} mmHg
   RR: 32 (16 - 40) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 65 kg
   Height: 67 Inch
             Total In:
                                                                  4,097 mL
                                                                  2,409 mL
   PO:
             TF:
                                                                  1,679 mL
                                                                    880 mL
   IVF:
                                                                    938 mL
                                                                    425 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                  1,325 mL
   Urine:
                                                                  1,725 mL
                                                                  1,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,372 mL
                                                                  1,084 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   324 K/uL
   80 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.6 mEq/L
   24 mg/dL
   100 mEq/L
   136 mEq/L
   26.0 %
   5.3 K/uL
        [image002.jpg]
                             [**2145-12-7**]  04:19 AM
                             [**2145-12-7**]  12:00 PM
                             [**2145-12-8**]  03:55 AM
                             [**2145-12-9**]  04:01 AM
                             [**2145-12-10**]  04:14 AM
                             [**2145-12-11**]  02:51 AM
                             [**2145-12-11**]  04:00 PM
                             [**2145-12-12**]  03:58 AM
                             [**2145-12-13**]  04:40 AM
                             [**2145-12-14**]  03:40 AM
   WBC
   6.6
   5.4
   4.5
   6.1
   4.8
   5.2
   5.3
   5.3
   Hct
   23.9
   22.9
   21.2
   22.8
   19.8
   24.1
   25.2
   24.6
   26.0
   Plt
   327
   315
   285
   [**Telephone/Fax (3) **]
   318
   324
   Cr
   0.8
   0.8
   0.6
   0.6
   0.7
   0.6
   0.7
   0.7
   Glucose
   90
   127
   112
   101
   57
   65
   101
   120
   80
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:359/0.2, Differential-Neuts:62.9 %, Lymph:27.1 %, Mono:7.4 %,
   Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:234 IU/L,
   Ca++:9.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR: mild haziness left hemithorax. No focal infiltrates
   Assessment and Plan
 .H/O CERVICAL FRACTURE (WITH SPINAL CORD INJURY)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ANEMIA
   Hemodynamically stable. Afebrile. Normal WBC. Completing course of
   antibiotics.
   Oxygenation adequate on trach mask. Attempting to do chest PT.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-12-13**] 08:50 PM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2145-12-3**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes